US09102692B2
6-Bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester (202.0 mg, 0.495 mmol), dichlorobis(triphenylphosphine)palladium (II) (35.6 mg, 0.051 mmol), bis(pinacol)diborane (189.3 mg, 0.745 mmol), potassium acetate (147.3 mg, 1.51 mmol), and dioxane (1.6 ml) were mixed. The air was replaced three times with argon under reduced pressure. The mixture was microwaved at 120° C. for 30 minutes. Dichlorobis(triphenylphosphine)palladium (II) (35.6 mg, 0.051 mmol) and 2-bromo-5-fluoro-pyridine (206.9 mg, 1.48 mmol) were added to the reaction mixture. After deaeration, the air was replaced three times with argon. This was heated and stirred at 100° C. for three hours. The reaction mixture was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was purified by amino gel column chromatography (n-hexane/ethyl acetate=7/100 to 63/100). Thus, 6-(5-fluoro-pyridin-2-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester was obtained as a pale yellow amorphous material (150.5 mg, yield of 72%).

reactant | 6-Bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester | 0.495 mmol, 202.0 mg | COC(=O)C=1N(C2=CC(=CC=C2C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C17H14BrNO4S
reactant | potassium acetate | 1.51 mmol, 147.3 mg | C(C)(=O)[O-].[K+]
reactant | 2-bromo-5-fluoro-pyridine | 1.48 mmol, 206.9 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
catalyst | dichlorobis(triphenylphosphine)palladium | 0.051 mmol, 35.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium | 0.051 mmol, 35.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 1.6 ml | O1CCOCC1 | C4H8O2
product | 6-(5-fluoro-pyridin-2-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC(=CC=C2C1)C1=NC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C22H17FN2O4S
